US05726172
To a stirred, 0° C. solution of methyl 2,4-dihydroxybenzoate (50 g, 300 mmol) in acetone (1000 mL) was added K2CO3 (150 g, 1000 mmol) and benzyl bromide (330 mmol, 39 mL). The solution was allowed to warm to ambient temperature over 48 h. The reaction solution was filtered through celite and the acetone solution stripped down under reduced pressure. The crude oil was dissolved in EtOAc (1000 mL) and washed with water (250 mL), and saturated aqueous NaHCO3 (500 mL). The EtOAc layer was dried (MgSO4), filtered, and the EtOAc was removed under reduced pressure. The crude product was purified by pressurized silica gel column chromatography using 5:1 hexanes:EtOAc. Evaporation of the hexanes:EtOAc mixture gave the desired methyl 4-benzyloxy-2-hydroxybenzoate as a white powder.

reactant | methyl 2,4-dihydroxybenzoate | 300 mmol, 50 g | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | K2CO3 | 1000 mmol, 150 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 330 mmol, 39 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 1000 mL | CC(=O)C | C3H6O
product | methyl 4-benzyloxy-2-hydroxybenzoate | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)O | C15H14O4
